US09382255B2
6-[2-(2,6-Dimethylheptan-4-ylidene)hydrazino]pyrimidin-4-ol
10.00 g (79.3 mmol) 6-hydrazinopyrimidin-4-ol (CAS-No: 29939-37-5) were transformed in analogy to intermediate example 1c using 2,6-dimethylheptan-4-one to give after working up and purification 8.77 g (44%) of the title compound.

reactant | 6-hydrazinopyrimidin-4-ol | 79.3 mmol, 10.00 g | N(N)C1=CC(=NC=N1)O | C4H6N4O
reactant | 2,6-dimethylheptan-4-one | CC(C)CC(CC(C)C)=O | C9H18O
product | 6-[2-(2,6-Dimethylheptan-4-ylidene)hydrazino]pyrimidin-4-ol | CC(C)CC(CC(C)C)=NNC1=CC(=NC=N1)O | C13H22N4O
